US06184236B2
A mixture of (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-(3-phenyl-propyl)-amine (1.54 g, 4.79 mmol), 10% Pd/C (0.3 g) and MeOH (30 ml) was hydrogenated for 3 h. Removal of the catalyst, evaporation of the solvent and separation of the isomers by flash-chromatography over SiO2 (Biotage 40, 90 g) eluting with AcOEt gave (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine (0.64 g, 41%, light yellow oil, MS: m/e=324.4 (M+H+)) and (1RS,3RS)-[3-(4-methoxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine (0.34 g, 22%, light yellow oil, MS: m/e=324.4 (M+H+)).

reactant | (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-(3-phenyl-propyl)-amine | 4.79 mmol, 1.54 g | COC1=CC=C(C=C1)C1=CC(CCC1)NCCCC1=CC=CC=C1 | C22H27NO
catalyst | Pd/C | 0.3 g | [Pd] | Pd
solvent | MeOH | 30 ml | CO | CH4O
product | (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine | COC1=CC=C(C=C1)C1CC(CCC1)NCCCC1=CC=CC=C1 | C22H29NO
